US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)pyrazole
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)pyrazole (2.80 g, 6.89 mmol) was dissolved in a mixed solvent of 50 ml of acetone and 5 ml of water, and then concentrated sulfuric acid (0.70 g, 6.92 mmol) was added with stirring at room temperature. The mixture was stirred at room temperature for 48 hours and the reaction solution was concentrated under reduced pressure. The pH of the residue was adjusted to about 8 by adding an aqueous saturated sodium hydrogencarbonate solution, followed by extracting three times with 30 ml of ethyl acetate. The organic layer was washed three times with 100 ml of water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting concentrated residue was subjected to silica gel column chromatography [eluent: mixed solvent of ethyl acetate and hexane (volume ratio=1:2)] to obtain 1.96 g (5.40 mmol) of the title compound as a colorless crystal.

reactant | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)pyrazole | 6.89 mmol, 2.80 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1N=COC)C1=NOC=N1 | C14H8Cl2F3N5O2
reactant | sulfuric acid | 6.92 mmol, 0.70 g | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)pyrazole | 5.40 mmol, 1.96 g, Yield 78.1% | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1 | C12H6Cl2F3N5O
